* Spice library implementing logic gates in discrete resistor-transistor-logic (RTL)
* 2021-Nov-01  cpldcpu

* General notes:
* The load resistor in all cells is at the input, the output is open collector.
* This helps to automatically adjust biasing, but means that an additonal pull-up
* resistor has to be added to any open output that does not have internal connections.

* Supported gate types:
* BUF
* NOT
* NOR2
* NOR3
* DLATCH
* DFF

* Global nodes:
* VCC       positive supply
* VEE       negative supply

* Global constants
* RL        Load resistor value
* RB        Base resistor value

* "RTL_NPN" needs to be defined elsewhere and should be a generic NPN switching transistor
* (e.g. MMBT3904, PMBT2369)



.SUBCKT NOT A Y
Q1 Y N001 VEE 0 RTL_NPN
R1 VCC A {RL}
R2 N001 A {RB}
.ENDS NOT

.SUBCKT BUF A Y
X1 A B NOT
X2 B Y NOT
.ENDS NOT

.SUBCKT NOR2 A B Y
Q1 Y N001 VEE 0 RTL_NPN
R1 VCC A {RL}
R2 N001 A {RB}
Q2 Y N002 VEE 0 RTL_NPN
R3 VCC B {RL}
R4 N002 B {RB}
.ENDS NOR2

.SUBCKT NOR3 A B C Y
Q1 Y N001 VEE 0 RTL_NPN
R1 VCC A {RL}
R2 N001 A {RB}
Q2 Y N002 VEE 0 RTL_NPN
R3 VCC B {RL}
R4 N002 B {RB}
Q3 Y N003 VEE 0 RTL_NPN
R5 VCC C {RL}
R6 N003 C {RB}
.ENDS NOR2

.SUBCKT DLATCH E D Q
X1 D nE N001 NOR2
X2 E Q nQ NOR2
X3 N001 nQ Q NOR2
X4 E nE NOT
.ENDS DLATCH

.SUBCKT DFF C D Q
X1 nC D t DLATCH
X2 C t Q DLATCH
X3 C nC NOT
.ENDS DFF
