* Spice library implementing logic gates in discrete resistor-transistor-logic (RTL)
* 2021-Nov-01  cpldcpu

* General notes:
* The load resistor in all cells is at the input, the output is open collector.
* This helps to automatically adjust biasing, but means that an additonal pull-up
* resistor has to be added to any open output that does not have internal connections.

* Supported gate types:
* BUF
* NOT
* NOR2
* NOR3
* DLATCH
* DFF

* Global nodes:
* VCC       positive supply
* VEE       negative supply

* Global constants
* RL        Load resistor value
* RB        Base resistor value

* "RTL_NPN" needs to be defined elsewhere and should be a generic NPN switching transistor
* (e.g. MMBT3904, PMBT2369)

.SUBCKT NOT A Y
Q1 Y N001 VEE 0 RTL_NPN
R1 VCC A {RL}
R2 N001 A {RB}
.ENDS NOT

.SUBCKT BUF A Y
X1 A B NOT
X2 B Y NOT
.ENDS NOT

.SUBCKT NOR2 A B Y
X1 A Y NOT
X2 B Y NOT
.ENDS NOR2

.SUBCKT NOR3 A B C Y
X1 A Y NOT
X2 B Y NOT
X3 C Y NOT
.ENDS NOR2

.SUBCKT TBUF E A Y
Q1 A N001 Y 0 RTL_NPN
R1 E N001 {RB}
R2 VCC A {RL}
R3 VCC E {RL}
.ENDS NOT

.SUBCKT NOTtap A base Y
Q1 Y base VEE 0 RTL_NPN
R1 VCC A {RL}
R2 base A {RB}
.ENDS NOT

.SUBCKT DLATCH3Tn E D Qn
X1 E D N001 TBUF
X2 N002 N001 Qn NOTtap
X3 Qn N002 NOT
.ENDS DLATCH

.SUBCKT PHLATCH E D Q
X1 D nE N001 NOR2
X2 E Q nQ NOR2
X3 N001 nQ Q NOR2
X4 E nE NOT
.ENDS DLATCH

.SUBCKT DFF7T C D Q
X1 nC D t DLATCH3Tn
X2 C t Q DLATCH3Tn
X3 C nC NOT
.ENDS DFF

.SUBCKT DFF C D Q
X1 nC D t PHLATCH
X2 C t Q PHLATCH
X3 C nC NOT
.ENDS DFF
